US06031094
Briefly, 1.1 mmol N-BOC-L-Serine (Fluka) is dissolved in 2 ml methylene chloride. Then 1.1 mmol 7-Amino-4-methylcoumarin and 1.2 mmol hydroxybenztriazole are added with stirring. Over a period of 30 minutes, a solution of 1.3 mmol dicyclohexyl carbodiimide in 1.4 ml methylene chloride is added dropwise. The reaction is stirred at room temperature for 20 hours, during which time a precipitate of dicyclohexylurea forms. The precipitate is removed by filtration and washed with methylene chloride. The combined solutions (filtrates) are evaporated under reduced pressure and the residue chromatographed over silica gel with methylene chloride--ethylacetate as the eluent yielding 2-((tert-butoxy)carbonylamino)-3-hydroxy-N-(4-methyl-2-oxo(2H-chromen-7-yl))propanamide.

reactant | N-BOC-L-Serine | 1.1 mmol | C(=O)(OC(C)(C)C)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | 7-Amino-4-methylcoumarin | 1.1 mmol | NC1=CC=C2C(=CC(OC2=C1)=O)C | C10H9NO2
reactant | hydroxybenztriazole | 1.2 mmol | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexyl carbodiimide | 1.3 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.4 ml | C(Cl)Cl | CH2Cl2
product | 2-((tert-butoxy)carbonylamino)-3-hydroxy-N-(4-methyl-2-oxo(2H-chromen-7-yl))propanamide | C(C)(C)(C)OC(=O)NC(C(=O)NC1=CC=C2C(=CC(OC2=C1)=O)C)CO | C18H22N2O6
